US05756507
4-[4-[[2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]-(4-hydroxybutyl)amino]butyl]phenol
To a solution of 4-[4-[[2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]amino]butyl]phenol (18 mg in 2 mL tetrahydrofuran) was added 0.050 mL of 2-ethoxytetrahydrofuran followed by 0.25 mL of 30% aqueous acetic acid and the mixture stirred for 30 minutes. At this time 0.35 mL triethylamine was added followed by 10% palladium hydroxide on carbon catalyst. The reaction flask was fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 23 hours the reaction was flushed with nitrogen, filtered over diatomaceous earth and concentrated in vacuo and partially purified by flash chromatography on silica gel (methylene chloride:methanol, 92:8). Repurification by HPLC (C8, methanol:water, 55:45=0.1% trifluoroacetic acid) gave the title compound (2.8 mg). m/e=485 (M+H)

reactant | 4-[4-[[2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]amino]butyl]phenol | 2 mL, 18 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=CC=C2C1CCNCCCCC1=CC=C(C=C1)O | C28H32N2O
reactant | 2-ethoxytetrahydrofuran | 0.050 mL | C(C)OC1OCCC1 | C6H12O2
reactant | acetic acid | 0.25 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
solvent | triethylamine | 0.35 mL | C(C)N(CC)CC | C6H15N
product | 4-[4-[[2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]-(4-hydroxybutyl)amino]butyl]phenol | 2.8 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=CC=C2C1CCN(CCCCC1=CC=C(C=C1)O)CCCCO | C32H40N2O2
